US09359359B2
To a solution of 7-(4-chlorobenzyl)-8-mercapto-3-methyl-1-(3-(tetrahydro-2H-pyran-2-yloxy)propyl)-1H-purine-2,6(3H,7H)-dione (100 mg, 0.216 mmol) in DMF (5 mL) was added 1-(bromomethyl)-3-(trifluoromethoxy)benzene (66 mg, 0.259 mmol), followed by potassium carbonate (89 mg, 0.645 mmol). The reaction was stirred at 80° C. for 2 h. The mixture was cooled, diluted with ethyl acetate and water, and the phases were separated. The organic phase was washed with brine, dried over sodium sulfate, filtered and concentrated to give 7-(4-chlorobenzyl)-3-methyl-1-(3-(tetrahydro-2H-pyran-2-yloxy)propyl)-8-(3-(trifluoromethoxy)benzylthio)-1H-purine-2,6(3H,7H)-dione (120 mg, 87.3%) as light yellow oil. LCMS retention time 2.106 min; LCMS MH+-THP 555.

reactant | 7-(4-chlorobenzyl)-8-mercapto-3-methyl-1-(3-(tetrahydro-2H-pyran-2-yloxy)propyl)-1H-purine-2,6(3H,7H)-dione | 0.216 mmol, 100 mg | ClC1=CC=C(CN2C(=NC=3N(C(N(C(C23)=O)CCCOC2OCCCC2)=O)C)S)C=C1 | C21H25ClN4O4S
reactant | 1-(bromomethyl)-3-(trifluoromethoxy)benzene | 0.259 mmol, 66 mg | BrCC1=CC(=CC=C1)OC(F)(F)F | C8H6BrF3O
reactant | potassium carbonate | 0.645 mmol, 89 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 7-(4-chlorobenzyl)-3-methyl-1-(3-(tetrahydro-2H-pyran-2-yloxy)propyl)-8-(3-(trifluoromethoxy)benzylthio)-1H-purine-2,6(3H,7H)-dione | 120 mg, 87.3% | ClC1=CC=C(CN2C(=NC=3N(C(N(C(C23)=O)CCCOC2OCCCC2)=O)C)SCC2=CC(=CC=C2)OC(F)(F)F)C=C1 | C29H30ClF3N4O5S
